US07592347B2
2-Chloro-5-trifluoromethylpyrazine (D31)
2-Amino-5-trifluoromethylpyrazine (Miesel, U.S. Pat. No. 4,293,552) was converted into 5-trifluoromethylpyrazin-2-one (Fitzjohn, EP 408196). 5-Trifluoromethylpyrazin-2-one (0.5 g) was heated at reflux in POCl3 (3 ml) containing 1 drop of conc. H2SO4 for 3 h. The cooled mixture was poured onto ice and brought to pH 5 by addition of solid NaHCO3 and extracted (3×) with diethyl ether. The ethereal extracts were washed with water and brine, dried (Na2SO4) and evaporated to give the title compound (D31) as a light yellow oil (0.2 g) which was sufficiently pure for use without further purification. 1H NMR δ [CDCl3]: 8.72 (1H, s), 8.76 (1H, s).

reactant | 2-Amino-5-trifluoromethylpyrazine | NC1=NC=C(N=C1)C(F)(F)F | C5H4F3N3
reactant | 5-trifluoromethylpyrazin-2-one | FC(C=1N=CC(NC1)=O)(F)F | C5H3F3N2O
reactant | 5-Trifluoromethylpyrazin-2-one | 0.5 g | FC(C=1N=CC(NC1)=O)(F)F | C5H3F3N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | POCl3 | 3 ml | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | H2SO4 | 1 drop | OS(=O)(=O)O | H2O4S
product | 2-Chloro-5-trifluoromethylpyrazine | 0.2 g | ClC1=NC=C(N=C1)C(F)(F)F | C5H2ClF3N2
